### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplicialSet): more API for `SSet.op`

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #38662

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/KanComplex/MulStruct.lean [hunk 1]
```diff
@@ -134,6 +169,54 @@ namespace MulStruct
 attribute [reassoc (attr := simp)] δ_castSucc_castSucc_map δ_succ_castSucc_map δ_succ_succ_map
   δ_map_of_lt δ_map_of_gt
 
+/-- The `Mulstruct` for `X.op` that is deduced from a `Mulstruct` for the simplicial
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/KanComplex/MulStruct.lean]:
```suggestion
/-- The `MulStruct` for `X.op` that is deduced from a `MulStruct` for the simplicial
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 2]
```diff
@@ -296,6 +304,39 @@ lemma yonedaEquiv_symm_app_id {X : SSet.{u}} {n : ℕ} (x : X _⦋n⦌) :
     (yonedaEquiv.symm x).app _ (yonedaEquiv (𝟙 _)) = x := by
   simp
 
+/-- `yonedaEquiv` is natural. -/
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 3]
```diff
@@ -296,6 +304,39 @@ lemma yonedaEquiv_symm_app_id {X : SSet.{u}} {n : ℕ} (x : X _⦋n⦌) :
...
+lemma yonedaEquiv_naturality {X : SSet} {m n : SimplexCategory}
+    (f : m ⟶ n) (g : stdSimplex.obj n ⟶ X) :
+    X.map f.op (yonedaEquiv g) = yonedaEquiv (stdSimplex.map f ≫ g) :=
+  uliftYonedaEquiv_naturality _ _
+
+/-- `yonedaEquiv.symm` is natural under precomposition -/
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
```

File: Mathlib/AlgebraicTopology/SimplicialSet/KanComplex/MulStruct.lean [hunk 4]
```diff
@@ -134,6 +169,54 @@ namespace MulStruct
 attribute [reassoc (attr := simp)] δ_castSucc_castSucc_map δ_succ_castSucc_map δ_succ_succ_map
   δ_map_of_lt δ_map_of_gt
 
+/-- The `MulStruct` for `X.op` that is deduced from a `MulStruct` for the simplicial
+set `X`. -/
+def op {f g fg : X.PtSimplex n x} {i : Fin n} (h : MulStruct f g fg i) {j : Fin n}
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/KanComplex/MulStruct.lean:175]: Do you want to tag these with `@[simps]`? The `_map` projection would be reasonable at a glance.

File: Mathlib/AlgebraicTopology/SimplicialSet/Op.lean [hunk 5]
```diff
@@ -55,22 +55,26 @@ lemma op_map (X : SSet.{u}) {n m : SimplexCategoryᵒᵖ} (f : n ⟶ m) (x : X.o
...
+  rfl
 
-set_option backward.defeqAttrib.useBackward true in
-set_option backward.isDefEq.respectTransparency false in
 @[simp]
-lemma op_σ (X : SSet.{u}) {n : ℕ} (i : Fin (n + 1)) (x : X _⦋n⦌) :
+lemma op_σ (X : SSet.{u}) {n : ℕ} (i : Fin (n + 1)) (x : X.op _⦋n⦌) :
     X.op.σ i x = opObjEquiv.symm (X.σ i.rev (opObjEquiv x)) := by
   simp [SimplicialObject.σ, op_map]
+  rfl
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Op.lean]: You want to tag `SimplexCategory.rev` with `@[implicit_reducible]` to make this go away (which is reasonable IMO, but will also trigger unification at implicit reducible transparency for the `map` field of `SimplexCategory.rev` while only the `obj` field has a `simps` projection. If we don’t want that, we can factor out the `map` field into its own semi-reducible def).

File: Mathlib/AlgebraicTopology/SimplicialSet/Op.lean [hunk 6]
```diff
@@ -55,22 +55,26 @@ lemma op_map (X : SSet.{u}) {n m : SimplexCategoryᵒᵖ} (f : n ⟶ m) (x : X.o
...
   rfl
 
-set_option backward.defeqAttrib.useBackward true in
-set_option backward.isDefEq.respectTransparency false in
 @[simp]
-lemma op_δ (X : SSet.{u}) {n : ℕ} (i : Fin (n + 2)) (x : X _⦋n + 1⦌) :
+lemma op_δ (X : SSet.{u}) {n : ℕ} (i : Fin (n + 2)) (x : X.op _⦋n + 1⦌) :
     X.op.δ i x = opObjEquiv.symm (X.δ i.rev (opObjEquiv x)) := by
   simp [SimplicialObject.δ, op_map]
+  rfl
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Op.lean]: ditto.

File: Mathlib/AlgebraicTopology/SimplicialSet/KanComplex/MulStruct.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/KanComplex/MulStruct.lean:175]: Thanks for the suggestion!

File: Mathlib/AlgebraicTopology/SimplicialSet/Op.lean (hunk 5 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/Op.lean]: I have made more things `implicit_reducible` at https://github.com/leanprover-community/mathlib4/pull/38664/changes/a4acf0df4b0903ab77e796869700123e4acd0a0d
In principle, it could even be possible to remove `SSet.opObjEquiv` by making `opFunctor` an `abbrev`, but I feel this would be a kind of abuse of defeq (even though it may not be considered as such by Lean), so that there is some value in keeping `SSet.opObjEquiv` in order to transport simplices from `X.op` to `X`.

**Comment by joelriou** [comment]
Thanks @robin-carlier for the reviews!

File: Mathlib/AlgebraicTopology/SimplicialSet/Op.lean (hunk 5 above)
Comment (robin-carlier) [reply Mathlib/AlgebraicTopology/SimplicialSet/Op.lean]: I agree that we should keep  `opObjEquiv`. (for quasicategories, `op` plays the role of `Opposite`, and we’d rather not have objects of `Opposite X` unify with objects of `X` reducibly).

Comment (robin-carlier) [reply Mathlib/AlgebraicTopology/SimplicialSet/Op.lean]: So in fact I’m now wondering if `opFunctor` itself as implicit_reducible is a good thing. (rev should still be fine), but maybe we can just experiment with the current version and see how that goes.

**Comment by robin-carlier** [comment]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
